US04971993
Nε -benzyloxycarbonyl-L-lysine (8.41 g, 30 mmole) was dissolved in 1N aqueous sodium hydroxide (30 ml), and dioxane (10 ml) solution of benzene sulfonyl chloride (5 30 g, 30 mmole) was added dropwise to the solution while keeping the pH value thereof to between 10 and 11 with 1N aqueous sodium hydroxide while cooling with ice and stirring. The mixture was further stirred for 1.5 hours at room temperature and then insoluble matter was removed by filtration. The filtrate was washed with two 100 ml portions of diethyl ether. To the water layer, ethyl acetate (150 ml) was added and the solution was adjusted to pH 1.5 with 1N aqueous hydrochloric acid under vigorous stirring. The ethyl acetate layer was separated and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the oily residue thus obtained was dissolved in acetonitrile (200 ml), and then dicyclohexylamine (5.43 g, 30 mmole) was added thereto with stirring, and thereby Nα -benzenesulfonyl-Nε -benzyloxycarbonyl-L-lysine dicyclohexylamine salt (13.21 g, 73.2%) was obtained.

reactant | Nε -benzyloxycarbonyl-L-lysine | 30 mmole, 8.41 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | C14H20N2O4
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | benzene sulfonyl chloride | 30 mmole, 30 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | dicyclohexylamine | 30 mmole, 5.43 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | Nα -benzenesulfonyl-Nε -benzyloxycarbonyl-L-lysine dicyclohexylamine salt | 13.21 g, 73.2% | C1(CCCCC1)NC1CCCCC1.C1(=CC=CC=C1)S(=O)(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | InChI=1S/C20H24N2O6S.C12H23N/c23-19(24)18(22-29(26,27)17-11-5-2-6-12-17)13-7-8-14-21-20(25)28-15-16-9-3-1-4-10-16;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h1-6,9-12,18,22H,7-8,13-15H2,(H,21,25)(H,23,24);11-13H,1-10H2/t18-;/m0./s1
